US05773476
M33: (E)-3-(3, 5-di-t-butyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile
M33 was prepared with 3,5-di-t-butyl-4-hydroxybenzaldehyde and phenylsulfonly acetonitrile under similar conditions as described for M26.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | phenylsulfonly acetonitrile | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
product | (E)-3-(3, 5-di-t-butyl-4-hydroxyphenyl)-2-(phenylsulfonyl)acrylonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)/C=C(\C#N)/S(=O)(=O)C1=CC=CC=C1 | C23H27NO3S
